USRE029225
Dowicil-200 + NaOH→basic oil
Excess sodium hydroxide, preferably, 4 molar proportions, is dissolved in water and cooled to room temperature. A quantity of about one mole of Dowicil 200 antimicrobial is added slowly to the caustic solution and the reaction mixture is stirred approximately 15 minutes at ambient temperature. The ⟦Carbinolamine⟧ basic oil which forms is extracted with benzene, the extract is dried over sodium sulfate and the benzene is evaporated to give the ⟦Carbinolamine⟧ basic oil in an approximately 78% yield as a viscous oil.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | Dowicil 200 | about one mole | C1N2CN3CN1C[N+](C2)(C3)C/C=C\Cl.[Cl-]
solvent | water | O | H2O
product | Dowicil-200 NaOH | approximately 78% yield | C1N2CN3CN1C[N+](C2)(C3)C/C=C\Cl.[Cl-].[OH-].[Na+] | InChI=1S/C9H16ClN4.ClH.Na.H2O/c10-2-1-3-14-7-11-4-12(8-14)6-13(5-11)9-14;;;/h1-2H,3-9H2;1H;;1H2/q+1;;+1;/p-2/b2-1-;;;
